US08058300B2
Step 2: 1-[4′-(4-Benzyloxycarbonylamino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 1, Step 6 using [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid benzyl ester and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C18H15BrN2O3
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-[4′-(4-Benzyloxycarbonylamino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OCC1=CC=CC=C1 | C30H28N2O5
